US08471005B2
4-Phenyl-1-(2,2,2-trifluoro-acetyl)-piperidine-4-carbonitrile was dissolved in Acetonitrile (12.0 mL), Trifluoroacetic anhydride (4.00 mL, 28.3 mmol) was added and the mixture was cooled in an ice bath. Potassium nitrate (1.58 g, 15.6 mmol) was then added and the reaction was stirred at 0° C. for 2 h, then water (100 mL) was added at 0° C. The mixture was extracted with EtOAc (2×50 mL), the organics were washed with 1:1 brine:satd. NaHCO3 (2×50 mL), dried over sodium sulfate and then filtered through 8 mL silica gel, washing with 100 mL EtOAc. The filtrate was conc. in vacuo. 1H-NMR indicated a mixture of nitration products and starting material. Resubjection to the nitration conditions (12 mL MeCN, 4 mL TFAA, 1.59 g KNO3, rt, overnight). Work up as before, conc. in vacuo to afford an oil, 1H-NMR showing -2.6:1 ratio of nitration products. The crude oil was dried in vacuo and then dissolved in DCM, loaded onto a 25 g ISCO cartridge and purified (120 g column, 0%, then 5-30% EtOAc:Hex) to afford partial separation of the nitro products, the major eluting first. Clean fractions were conc. in vacuo to afford 4-(4-Nitro-phenyl)-1-(2,2,2-trifluoro-acetyl)-piperidine-4-carbonitrile (1.29 g; Yield=31.4%) as a white solid. 1H-NMR (DMSO-d6): 8.31 (d, 2H, J=8.8 Hz), 7.91 (d, 2H, J=8.8 Hz), 4.52 (m, 1H), 4.07 (m, 1H), 3.55 (m, 1H), 3.17 (m, 1H), 2.27 (m, 4H).

reactant | 4-Phenyl-1-(2,2,2-trifluoro-acetyl)-piperidine-4-carbonitrile | C1(=CC=CC=C1)C1(CCN(CC1)C(C(F)(F)F)=O)C#N | C14H13F3N2O
reactant | Trifluoroacetic anhydride | 28.3 mmol, 4.00 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Potassium nitrate | 15.6 mmol, 1.58 g | [N+](=O)([O-])[O-].[K+]
reactant | water | 100 mL | O | H2O
solvent | Acetonitrile | 12.0 mL | C(C)#N | C2H3N
product | 4-(4-Nitro-phenyl)-1-(2,2,2-trifluoro-acetyl)-piperidine-4-carbonitrile | 1.29 g, Yield=31.4% | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCN(CC1)C(C(F)(F)F)=O)C#N | C14H12F3N3O3
